US05061712
3-[(2,2-Dimethylpropylideneamino)-methyl]-pyrrolidine
2.0 g (20 mmol) of 3-aminomethyl-pyrrolidine are initially introduced into 10 ml of methanol, and 1.8 g (22 mmol) of 97% strength pivalaldehyde are added dropwise at room temperature, after which the internal temperature rises to 30° C. The mixture is subsequently stirred for 1 hour and then concentrated, and the residue is distilled through a Vigreux column. Yield: 2.8 g (80% of theory) of 97% pure product;

reactant | 3-aminomethyl-pyrrolidine | 20 mmol, 2.0 g | NCC1CNCC1 | C5H12N2
reactant | pivalaldehyde | C(C(C)(C)C)=O | C5H10O
solvent | methanol | 10 ml | CO | CH4O
product | 3-[(2,2-Dimethylpropylideneamino)-methyl]-pyrrolidine | CC(C=NCC1CNCC1)(C)C | C10H20N2
